US08404836B2
3.9 g (16.4 mmol) of 2-methoxy-4-(2-methoxy-ethoxymethoxy)-1-vinyl-benzene diluted in 30 ml of tetrahydrofuran is added dropwise to a solution at room temperature of 4 g (16.4 mmol) of the dimer of 9-borabicyclo[3.3.1]nonane diluted in 10 ml of tetrahydrofuran. After stirring at room temperature for 20 hours, the above reaction mixture is cooled to 0° C. and 10 ml of water is added dropwise. The reaction mixture is stirred at room temperature for 1 hour and then cooled again to 0° C. and 10 ml of hydrogen peroxide is added. After stirring for 2 hours at room temperature, the reaction mixture is treated by adding 3 ml of an aqueous solution of sodium hydroxide of concentration 3M and stirred for 30 minutes. The reaction mixture is extracted with ethyl acetate. The organic phases are combined, washed with saturated sodium chloride solution, dried over magnesium sulfate, filtered, and evaporated. The raw product is purified by silica column chromatography, eluted with a heptane/ethyl acetate mixture 60/40 to give 3.3 g (78%) of 2-[2-methoxy-4-(2-methoxy-ethoxymethoxy)-phenyl]-ethanol in the form of a light yellow oil.

reactant | 2-methoxy-4-(2-methoxy-ethoxymethoxy)-1-vinyl-benzene | 16.4 mmol, 3.9 g | COC1=C(C=CC(=C1)OCOCCOC)C=C | C13H18O4
reactant | 9-borabicyclo[3.3.1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | hydrogen peroxide | 10 ml | OO | H2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 2-[2-methoxy-4-(2-methoxy-ethoxymethoxy)-phenyl]-ethanol | 3.3 g, 78% | COC1=C(C=CC(=C1)OCOCCOC)CCO | C13H20O5
